US04085272
Preparation of ethyl-p-fluorophenoxy-acetate
To a stirred solution of 50 g (0.29 moles) of p-fluorophenoxy acetic acid in one liter of absolute ethanol is added 10 ml of sulfuric acid. The mixture is heated to reflux for 18 hours, cooled to room temperature, and evaporated under vacuum. It is then poured onto 300 g of ice, extracted twice with 500 ml of ether, washed twice with 250 ml of a saturated solution of sodium bicarbonate, 100 ml of saturated sodium chloride solution, dried with magnesium sulfate, filtered and evaporated under vacuum giving 58 g of an oil. This is crystallized from 50 ml of hexane at -25° C to give 55 g (90%) of the subject product as colorless crystals, mp 32°-33° C.

reactant | p-fluorophenoxy acetic acid | 0.29 moles, 50 g | FC1=CC=C(OCC(=O)O)C=C1 | C8H7FO3
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | one liter | C(C)O | C2H6O
product | ethyl-p-fluorophenoxy-acetate | 58 g | C(C)OC(COC1=CC=C(C=C1)F)=O | C10H11FO3
